US06287646B1
A 120 ml portion of 48% hydrobromic acid was added to 120 g of 3,5-difluorobenzyl alcohol. At room temperature, 120 ml of sulfuric acid was added dropwise thereto, and the mixture after the dropwise addition was stirred for 3 hours. The reaction solution was poured onto crashed ice, extracted with 600 ml of hexane, washed with water and saturated brine in that order and then dried with anhydrous sodium sulfate. By evaporating the solvent, 176 g of 3,5-difluorobenzyl bromide was obtained.

reactant | hydrobromic acid | Br | BrH
reactant | 3,5-difluorobenzyl alcohol | 120 g | FC=1C=C(CO)C=C(C1)F | C7H6F2O
solvent | sulfuric acid | 120 ml | S(O)(O)(=O)=O | H2O4S
product | 3,5-difluorobenzyl bromide | 176 g | FC=1C=C(CBr)C=C(C1)F | C7H5BrF2
